US04578380
Eight and one tenth (8.1) gram 4-hydroxy-2-phenyl[1]benzopyrano[2,3-d]pyrimidine, 9.0 g phosphoruspentachloride and 36 ml phosphorusoxychloride are heated for two hours under reflux. Excess phosphorusoxychloride is then distilled off under a vacuum and the residue is partitioned to chloroform and water, a pH 6 value being adjusted by the addition of 10% sodium hydroxide. The organic phase is separated and the chloroform removed by distillation in a rotary evaporator. The residue obtained is separated by chromatography using cyclohexane/chloroform 1:1 as an eluting agent. There are obtained 4.0 g 4-chloro-2-phenyl[1]benzopyrano[2,3-d]pyrimidine, mp 168°-170° C. as colorless crystals. Thereafter 0.05 g sodium are dissolved in 10 ml anhydrous ethanol and 0.25 g 3-dimethylamino-1-propane-thiol added to the solution. The mixture obtained is added dropwise to a solution of 0.6 g 4-chloro-2-phenyl[1]benzopyrano[2,3-d]pyrimidine at reflux temperature. The reaction mixture is then kept under reflux for another two hours. After cooling the reaction mixture is filtered and the filtrate is evaporated to dryness and the residue partitioned to chloroform and water. The organic phase is separated off, the chloroform is evaporated and the residue recrystallized from ethanol. There are obtained 0.4 g colorless crystals, mp 93° C.

reactant | 4-hydroxy-2-phenyl[1]benzopyrano[2,3-d]pyrimidine | OC=1C2=C(N=C(N1)C1=CC=CC=C1)OC1=C(C2)C=CC=C1 | C17H12N2O2
reactant | phosphoruspentachloride | 9.0 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorusoxychloride | 36 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-phenyl[1]benzopyrano[2,3-d]pyrimidine | 4.0 g | ClC=1C2=C(N=C(N1)C1=CC=CC=C1)OC1=C(C2)C=CC=C1 | C17H11ClN2O
